Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][C:2]([H:3])[C:4]#[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12].[H:5]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6][O:7][C:8]([H:9])=[C:10]([H:11])[H:12],-3.1414002892900004
[H:1][O:2][C:3]#[C:4][C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[C:10]([H:11])([H:12])[H:13].[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:7]([H:8])[H:9],1.75900137078
[O:14][H:15].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-5.35546539299
[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3]/[C:4]([H:5])=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.3522768516
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7][O:8][H:9]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7].[O:8][H:9],6.528021504730001
[H:1][C:2][O:3][C:4][H:5].[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][C:2][O:3][C:4]([H:5])[O:6][C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13],-4.6609580538
[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14].[O:1]>>[O:1]=[C:2]([O:3][H:4])[C:5]([H:6])([C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-7.69539915
[H:1][C:2][O:11][C:8]([O:7][C:4]([C:3])([H:5])[H:6])([H:9])[H:10]>>[H:1][C:2]1=[C:3][C:4]([H:5])([H:6])[O:7][C:8]([H:9])([H:10])[O:11]1,-5.75083982255
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[O:7][H:8]>>[C:5]([H:6])[O:7][H:8].[H:1][O:2][C:3][H:4],5.4431936
[H:3].[O:1]=[C:2]([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-0.845647296506
[H:1][C:2]#[C:3][O:4][C@@:5]([H:6])([O:7][H:8])[C:9]([H:10])([H:11])[H:12]>>[C:9]([H:10])([H:11])[H:12].[H:1][C:2]#[C:3][O:4][C:5]([H:6])[O:7][H:8],4.12073488115
[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7].[O:8][H:9]>>[C:1]=[C:2]([H:3])[C:4]([H:5])[O:6][C:7][O:8][H:9],-5.98071520659
[H:1][C:2]([H:3])[C:4]#[C:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:5]>>[H:1][C:2]([H:3])[C:4]([H:5])=[C:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14],-2.60537740493
[H:1][O:2]/[C:3](=[C:4]\[C:5]([H:6])([H:7])[H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[H:8],1.68528214152
[C:3](\[H:4])(=[C:5](/[H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17].[H:1][O:2]>>[H:1][O:2][C@:3]([H:4])([C:5]([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13])[C:14]([H:15])([H:16])[H:17],-2.86933596046
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15]>>[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[O:12][C:13]([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5],3.78760000165
[C:1][C:2]#[C:3][C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[C:1].[C:2]#[C:3][C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11],6.425560191590001
[H:4].[O:1]=[C:2]([H:3])[O:5]/[C:6]([H:7])=[C:8]\[C:9]([H:10])([H:11])[H:12]>>[O:1][C:2]([H:3])([H:4])[O:5]/[C:6]([H:7])=[C:8]/[C:9]([H:10])([H:11])[H:12],-0.586056807966
[H:1][C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11]>>[C:2][C:3]([H:4])([H:5])[O:6][O:7][C:8]([H:9])=[C:10][H:11].[H:1],3.96786345066
[H:1][C:2]#[C:3][C:4]([H:5])=[C:7]([O:8][H:9])[O:10][H:11].[H:6]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([O:8][H:9])[O:10][H:11],-1.82564292798
[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9]>>[O:1][C:2]#[C:3][C:6]([H:7])([H:8])[H:9].[O:4][H:5],5.028986880380001
[C:3]([H:4])([H:5])=[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14].[H:1][O:2]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C:7]([H:8])([H:9])[C:10]([H:11])=[C:12]([H:13])[H:14],-2.68075159569
[O:1][C:2]1([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]1([H:12])[H:13]>>[O:1]=[C:2]([C:3]([H:4])([H:5])[O:6][H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-0.3382670774099999
[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11].[O:12][H:13]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][O:12][H:13],-6.47830166132
[C:1]#[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([O:8][H:9])[O:10][H:11]>>[C:1]#[C:2][C:3]([H:4])[C:6]([H:7])([O:8][H:9])[O:10][H:11].[H:5],2.8008020803400004
[H:1][O:2][C:3]([H:4])([H:5])[C:6]([H:7])=[C:10]([H:11])[H:12].[O:8][H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C@:6]([H:7])([O:8][H:9])[C:10]([H:11])[H:12],-2.9202138359099994
[O:1]=[C:2][O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[O:1]=[C:2].[O:3][C:4]([H:5])([C:6]([H:7])([H:8])[H:9])[C:10]([H:11])([H:12])[H:13],1.19732722896
[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10][C:11]([H:12])([H:13])[H:14]>>[C:10][C:11]([H:12])([H:13])[H:14].[O:1]=[C:2]([H:3])[C:4]([H:5])([H:6])[C:7]([H:8])[H:9],3.66939681811
